US06338741B1
a) Preparation of 5-amino-3-methyl-1-tert-butylpyrazole
To a solution of 16.4 g (0.2 mol) of 3-aminocrotononitrile in 100 cm3 of n-pentanol were added 19.4 g (0.22 mol) of tert-butylhydrazine. This solution was heated at reflux for 20 hours. The n-pentanol was subsequently distilled off under reduced pressure. A pale yellow solid was obtained, which was taken up in 100 cm3 of isopropyl ether at room temperature and filtered on a sinter funnel. After drying under vacuum at 40° C., 18 g of the expected product were obtained in the form of a pale yellow solid, the melting point of which was from 172 to 175° C.

reactant | 3-aminocrotononitrile | 0.2 mol, 16.4 g | N\C(=C/C#N)\C | C4H6N2
reactant | tert-butylhydrazine | 0.22 mol, 19.4 g | C(C)(C)(C)NN | C4H12N2
solvent | n-pentanol | 100 cm3 | C(CCCC)O | C5H12O
solvent | isopropyl ether | 100 cm3 | C(C)(C)OC(C)C | C6H14O
product | 5-amino-3-methyl-1-tert-butylpyrazole | 18 g | NC1=CC(=NN1C(C)(C)C)C | C8H15N3
